US06458798B1
(6-1) 2-Amino-5-(2-methoxyethyl)-6-methlpyrimidine-4-ol
A mixture of ethyl 2-(2-methoxyethyl)-3-oxobutanoate (4 g, 21 mmol), guanidine carbonate (2.27 g, 16.3 mmol) and ethanol (16 ml) was refluxed for 9 hours. After cooling, the precipitate was filtered and washed with water, ethanol and ether in order, to give the object compound (1.24 g, 31.9%)

reactant | ethyl 2-(2-methoxyethyl)-3-oxobutanoate | 21 mmol, 4 g | COCCC(C(=O)OCC)C(C)=O | C9H16O4
reactant | guanidine carbonate | 16.3 mmol, 2.27 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 2-Amino-5-(2-methoxyethyl)-6-methlpyrimidine-4-ol | 1.24 g, 31.9% | NC1=NC(=C(C(=N1)O)CCOC)C | C8H13N3O2
